US03994941
In the manner given in Example 22, 1-(2-aminoethyl)-8-fluoro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine in acetonitrile is treated with 37% aqueous formaldehyde and acetic acid and thereafter with sodium cyanoborohydride and the resulting boron complex is warmed with aqueous ethylenediamine to give 1-[2-[(dimethylamino)-ethyl]-8-fluoro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1-(2-aminoethyl)-8-fluoro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | NCCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)F | C18H16FN5
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[(dimethylamino)-ethyl]-8-fluoro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CN(C)CCN1N=C2N(C3=C(C(=NC2)C2=CC=CC=C2)C=C(C=C3)F)C1 | C20H22FN5
